US06737425B1
106-1) 2-[4-(3-Pyridyl)phenoxy]ethanol
In a nitrogen atmosphere, 2-(4-bromophenoxy)ethanol 500 mg, diethyl (3-pyridyl) borane 509 mg, finely pulverized potassium hydroxide 388 mg, tetra-n-butyl ammonium bromide 74 mg and a tetrakis-triphenyl phosphine palladium complex 133 mg were added to tetrahydrofuran 10 ml and stirred under reflux with heating. After stirring for 2 hours, the mixture was cooled to room temperature and partitioned by adding water and ethyl acetate. The organic layer was washed with water and then with brine, dried over magnesium sulfate anhydride, and evaporated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system), whereby the title compound (233 mg, 50%) was obtained as a pale yellow crystalline.

reactant | 2-(4-bromophenoxy)ethanol | 500 mg | BrC1=CC=C(OCCO)C=C1 | C8H9BrO2
reactant | diethyl (3-pyridyl) borane | 509 mg | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | potassium hydroxide | 388 mg | [OH-].[K+]
catalyst | tetra-n-butyl ammonium bromide | 74 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[4-(3-Pyridyl)phenoxy]ethanol | N1=CC(=CC=C1)C1=CC=C(OCCO)C=C1 | C13H13NO2
